US07977358B2
E] [5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid (76 mg, 0.21 mmol) in 2.5 ml DMF was treated with iPr2NEt (0.11 ml, 0.63 mmol) and HATU (79 mg, 0.21 mmol), then after 20 min a solution of 4-(1-pyrrolidinyl)piperidine (32 mg, 0.21 mmol) in 1.5 ml DMF was added. The reaction mixture was stirred 0.5 h at room temperature, diluted with EtOAc and washed with three portions of saturated solution of NaHCO3 and brine. The aqueous phases were extracted with EtOAc the combined organic layers were dried over magnesium sulfate and evaporated. A column chromatography (amino-phase silica gel, EtOAc:MeOH, 19:1) afforded the title compound as a foam (74 mg, 71%). MS: 500.0 (MH+).

reactant | 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | 0.21 mmol, 76 mg | CC1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C17H12F3N3O3
reactant | iPr2NEt | 0.63 mmol, 0.11 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.21 mmol, 79 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(1-pyrrolidinyl)piperidine | 0.21 mmol, 32 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 74 mg, 71% | CC1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)N1CCC(CC1)N1CCCC1 | C26H28F3N5O2
